US08420863B2
(E)-2-(2-Fluoro-5-iodostyryl)-1,3-dimethylbenzene was coupled with allyl alcohol according to the method in Example 42. Purification by flash chromatography (40% CH2Cl2-hexanes) gave (E)-3-(3-(2,6-dimethylstyryl)-4-fluorophenyl)propanal as an oil. Yield (0.115 g, 52%): 1H NMR (400 MHz, DMSO-d6) δ 9.72 (t, J=1.2 Hz, 1H), 7.64 (dd, J=7.2, 2.4 Hz, 1H), 7.27 (d, J=16.8 Hz, 1H), 7.09-7.19 (m, 2H), 7.06 (s, 3H), 6.67 (d, J=16.8 Hz, 1H), 2.78-2.89 (m, 4H), 2.31 (s, 6H).

reactant | (E)-2-(2-Fluoro-5-iodostyryl)-1,3-dimethylbenzene | FC1=C(/C=C/C2=C(C=CC=C2C)C)C=C(C=C1)I | C16H14FI
reactant | allyl alcohol | C(C=C)O | C3H6O
product | (E)-3-(3-(2,6-dimethylstyryl)-4-fluorophenyl)propanal | CC1=C(/C=C/C=2C=C(C=CC2F)CCC=O)C(=CC=C1)C | C19H19FO
